US07683060B2
Step 5. 6-(4-bromo-3-fluorophenyl)-3-(methylthio)-1,2,4-triazine
A solution of 1-(4-bromo-3-fluorophenyl)-2,2-diethoxyethanone (2.24 g, 0.00734 mol), thiosemicarbazide (0.702 g, 0.00771 mol), and p-toluenesulfonic acid monohydrate (70 mg) in ethanol (50 mL) was heated at 90° C. for 2 h. LCMS showed that the starting material was consumed. After cooled to RT, to the mixture was added methyl iodide (2.3 mL, 0.037 mol). The mixture was stirred at RT for 2 h, and concentrated. To the residue was added acetic acid (15 mL). The mixture was heated at 60° C. for 4 h. The volatiles were evaporated under reduced pressure. The residue was treated with methanol. The formed precipitate was collected by filtration, and dried in-vacuo to afford the desired product (1.15 g, 51%) which was directly used in next step without further purification.

reactant | 1-(4-bromo-3-fluorophenyl)-2,2-diethoxyethanone | 0.00734 mol, 2.24 g | BrC1=C(C=C(C=C1)C(C(OCC)OCC)=O)F | C12H14BrFO3
reactant | thiosemicarbazide | 0.00771 mol, 0.702 g | NNC(=S)N | CH5N3S
reactant | methyl iodide | 0.037 mol, 2.3 mL | CI | CH3I
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | p-toluenesulfonic acid monohydrate | 70 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 6-(4-bromo-3-fluorophenyl)-3-(methylthio)-1,2,4-triazine | 1.15 g, 51% | BrC1=C(C=C(C=C1)C1=CN=C(N=N1)SC)F | C10H7BrFN3S
